US08084448B2
A. 5-(2-Benzyloxy-4-thiazol-2-yl-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
To a solution of n-BuLi (2.5M in hexane, 0.44 mL, 1.1 mmol) in Et2O (1 mL) at −78° C. is added 2-(trimethylsilyl)thiazole (0.16 mL, 1.0 mmol) and the reaction mixture is stirred at −78° C. for 30 min. Zinc chloride (1.0 M in Et2O1 3.0 mL, 3.0 mmol) is added and the mixture is warmed to RT over 30 min. The ether is removed under reduced pressure then a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (250 mg, 0.46 mmol) and Pd(PPh3)4 (55 mg, 0.046 mmol) in THF (1 mL) is added. The yellow solution is stirred at RT for 1 h then is heated at reflux for 2 h. The mixture is quenched with 1N HCl, extracted with EtOAc, washed with brine, dried over MgSO4 and concentrated. The residue is purified by chromatography using EtOAc/hexane as eluent to afford the title compound as a yellow solid: 1H NMR (CDCl3) δ 0.01 (s, 9H), 0.83 (m, 2H), 3.51 (m, 2H), 4.33 (s, 2H), 5.13 (s, 2H), 7.27-7.37 (m, 6H) 7.48 (m, 2H), 7.73 (br s, 1H), 7.82 (d, J=4 Hz, 1H); (M+1)+=502.

reactant | n-BuLi | 1.1 mmol, 2.5M, 0.44 mL | [Li]CCCC
reactant | 2-(trimethylsilyl)thiazole | 1.0 mmol, 0.16 mL | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.46 mmol, 250 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
solvent | Et2O | 1 mL | CCOCC | C4H10O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Zinc chloride | 3.0 mmol, 1.0 M, 3.0 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.046 mmol, 55 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-Benzyloxy-4-thiazol-2-yl-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=1SC=CN1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C23H27N3O4S2Si
